US06638935B2
1-(3,5-Dimethoxyphenyl)-4-(4-pyridyl-carbonyl)piperazine
5 g (45.8 mmol) of pyridine-4-carboxylic acid were suspended with stirring in 150 ml of DMF. With further stirring, 6.93 g (68.5 mmol) of N-methylmorpholine and then a solution of 35.6 g (68.5 mmol) of Py-BOP (1-benzotriazolyltripyrrolidinophosphonium hexafluorophosphate) and 10.18 g (45.8 mmol) of 1-(3,5-dimethoxyphenyl)piperazine in 60 ml of DMF were added to this mixture. The mixture was stirred at room temperature for 24 hours, the DMF was distilled off under reduced pressure and the residue was purified on a silica gel column (Kieselgel 60, from Merck AG, Darmstadt) using the mobile phase dichloromethane/methanol/25 percent ammonia (90:10:1 v/v/v).

reactant | pyridine-4-carboxylic acid | 45.8 mmol, 5 g | N1=CC=C(C=C1)C(=O)O | C6H5NO2
reactant | N-methylmorpholine | 68.5 mmol, 6.93 g | CN1CCOCC1 | C5H11NO
reactant | BOP | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 1-(3,5-dimethoxyphenyl)piperazine | 45.8 mmol, 10.18 g | COC=1C=C(C=C(C1)OC)N1CCNCC1 | C12H18N2O2
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
product | 1-(3,5-Dimethoxyphenyl)-4-(4-pyridyl-carbonyl)piperazine | COC=1C=C(C=C(C1)OC)N1CCN(CC1)C(=O)C1=CC=NC=C1 | C18H21N3O3
